US03971772
A solution of 1.54 g of 9-fluoro-11β,17,21-trihydroxy-16α-[(2-methyl-oxiranyl)methoxy]pregn-4-ene-3,20-dione, 21-acetate in 50 ml of tetrahydrofuran is stirred for 270 minutes with a solution of 2.6 g of periodic acid in 20 ml of water. The solution is poured into water and extracted with chloroform. The chloroform solution is washed with 10% sodium bicarbonate solution, dried, and evaporated in vacuo to give an oily residue. This is dissolved in chloroform and chromatographed on a 40-silica gel column. Elution with chloroform gives 400 mg of slightly impure product followed by 990 mg of TLC homogeneous solid. The 900 mg is recrystallized twice from acetone-hexane to give 328 mg of 9-fluoro-11β,17,21-trihydroxy-16α-(2-oxopropoxy)pregn-4-ene-3,20-dione, 21-acetate, melting point 203°-208°C.

reactant | 9-fluoro-11β,17,21-trihydroxy-16α-[(2-methyl-oxiranyl)methoxy]pregn-4-ene-3,20-dione | 1.54 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)OCC2(OC2)C)=O)C | C25H35FO7
reactant | periodic acid | 2.6 g | I(=O)(=O)(=O)O | HIO4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 9-fluoro-11β,17,21-trihydroxy-16α-(2-oxopropoxy)pregn-4-ene-3,20-dione | 328 mg | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)OCC(C)=O)=O)C | C24H33FO7
